US08022205B2
To 2-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-thiazole-4-carboxylic acid (77 mg), N-ethylpiperazine (36 μl), WSCI (68 mg), HOBt (48 mg) and triethylamine (48 μl) were left to act in DMF (3 ml), to obtain a crude product of [2-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-thiazol-4-yl]-(4-ethyl-piperazin-1-yl)-methanone, and then the PMB groups were removed according to Deprotection method 3, to obtain the desired compound (D-120) as an ivory powder (38 mg, 63%).

reactant | 2-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-thiazole-4-carboxylic acid | 77 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C=3SC=C(N3)C(=O)O)CC3=CC=C(C=C3)OC)C=C1 | C34H34N8O5S
reactant | N-ethylpiperazine | 36 μl | C(C)N1CCNCC1 | C6H14N2
reactant | HOBt | 48 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 48 μl | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | [2-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-thiazol-4-yl]-(4-ethyl-piperazin-1-yl)-methanone | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C=3SC=C(N3)C(=O)N3CCN(CC3)CC)CC3=CC=C(C=C3)OC)C=C1 | C40H46N10O4S
